US03991076
A solution of 3.09 g (0.012 mole) of 3-(4-methoxyphenacyl)-2,3,5,6-tetrahydrothiopyran-4-one, 1.22 g of dimethylaminopropylamine, 20 ml. of ethanol and one drop of concentrated hydrochloric acid is heated under reflux for 1.5 hours, cooled to ambient temperature, treated with 4 ml. of saturated ethereal hydrogen chloride, and diluted to the cloud point with ether. A brown solid precipitates. The solid is recrystallized from 2-propanol to give tan crystals of 1-(3-dimethylaminopropyl)-2-(4-methoxyphenyl)-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole hydrochloride, m.p. 193 to 194°C.

reactant | 3-(4-methoxyphenacyl)-2,3,5,6-tetrahydrothiopyran-4-one | 0.012 mole, 3.09 g | COC1=CC=C(C(CC2CSCCC2=O)=O)C=C1 | C14H16O3S
reactant | dimethylaminopropylamine | 1.22 g | CN(C)CCCN | C5H14N2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-(3-dimethylaminopropyl)-2-(4-methoxyphenyl)-1,4,6,7-tetrahydrothiopyrano[4,3-b]pyrrole hydrochloride | Cl.CN(CCCN1C2=C(C=C1C1=CC=C(C=C1)OC)CSCC2)C | InChI=1S/C19H26N2OS.ClH/c1-20(2)10-4-11-21-18-9-12-23-14-16(18)13-19(21)15-5-7-17(22-3)8-6-15;/h5-8,13H,4,9-12,14H2,1-3H3;1H
